US03996352
Preparation of N-(3-Methoxy-5-bromo-2-pyridyl)-α-chloroacetamide
A solution of 2-amino-3-methoxy-5-bromopyridine (20.3 grams) in absolute ether (200 ml) is charged into a glass reaction vessel equipped with mechanical stirrer and addition funnel. The solution is cooled to a temperature of about 5° C and pyridine (20 ml) is added thereto. A solution of chloroacetyl chloride (11.3 grams) in ether (50 ml) is then slowly added, with stirring, to the flask over a period of about 30 minutes resulting in the formation of a precipitate. The temperature of the reaction mixture is kept below about 10° C during the addition of the chloroacetyl chloride and stirring is continued thereafter for a period of about 1 hour to ensure the completion of the reaction. The precipitate which has formed is then recovered by filtration and is washed first with aqueous potassium carbonate and then with water. The washed product is then dried in a vacuum desiccator to yield the desired product N-(3-methoxy-5-bromo-2-pyridyl)-α-chloroacetamide.

reactant | 2-amino-3-methoxy-5-bromopyridine | 20.3 grams | NC1=NC=C(C=C1OC)Br | C6H7BrN2O
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 11.3 grams | ClCC(=O)Cl | C2H2Cl2O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | N-(3-methoxy-5-bromo-2-pyridyl)-α-chloroacetamide | COC=1C(=NC=C(C1)Br)NC(CCl)=O | C8H8BrClN2O2
